US07285551B2
Step 1: Production of 4-benzyloxy-N-methoxy-N-methylbenzamide
4-Benzyloxybenzoic acid (5.0 g) and N,O-dimethyl-hydroxylamine hydrochloride (2.5 g) were suspended in dimethylformamide (50 ml), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (5.0 g), 1-hydroxybenzotriazole (3.5 g) and triethylamine (3.6 ml) were added. The mixture was stirred overnight at room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water, saturated aqueous sodium hydrogencarbonate, water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (5.6 g, yield 94%).

reactant | 4-Benzyloxybenzoic acid | 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C14H12O3
reactant | N,O-dimethyl-hydroxylamine hydrochloride | 2.5 g | Cl.CNOC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.0 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 3.5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
product | 4-benzyloxy-N-methoxy-N-methylbenzamide | 5.6 g, yield 94% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N(C)OC)C=C1 | C16H17NO3
